US07553854B2
To the reaction mixture of (S)-tert-butyl 3-(6-(2-chloropyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate (68 mg, 148 μmol) in 1.2 m of DME, 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (40 mg, 192 μmol), Pd(dppf)2Cl2 (18 mg, 22 μmol) and aq. 2M Na2CO3 (400 μL, 800 μmol) were added. The reaction mixture was stirred at 85° C. for 72 hours or until done by LC. The reaction mixture was poured into 40 ml of saturated NaHCO3 solution and extracted with ethyl acetate (2×80 ml). The combined organic layers were washed with water (2×20 ml) and brine (20 ml), then dried over Na2SO4, filtered and evaporated in vacuo to give a brown glue (77 mg) that was purified on prep HPLC to give (S)-tert-butyl 3-(6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate as powder (9.6 mg). ES/MS m/z 507.1 (MH+).

reactant | (S)-tert-butyl 3-(6-(2-chloropyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate | 148 μmol, 68 mg | ClC1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C22H25ClN4O3S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 192 μmol, 40 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 800 μmol, 2M, 400 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHCO3 | 40 ml | C(=O)(O)[O-].[Na+]
catalyst | Pd(dppf)2Cl2 | 22 μmol, 18 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DME | COCCOC | C4H10O2
product | (S)-tert-butyl 3-(6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate | 9.6 mg | CN1N=CC(=C1)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C26H30N6O3S
